US08404859B2
Preparation of 5-Bromomethyl-3-chloro-thiophene-2-carboxylic acid methyl ester
A mixture of 3-Chloro-5-methyl-thiophene-2-carboxylic acid methyl ester (4.4 g, 23.1 mmol), NBS (5.1 g, 28.85 mmol), and ACHN in CCl4 (40 ml) was refluxed in a pressure tube over the weekend. The reaction mixture was cooled and evaporated. The residue was purified by column (0-5% EtOAc in hexane) to give 3.8 g (61%) yellow solid product.

reactant | 3-Chloro-5-methyl-thiophene-2-carboxylic acid methyl ester | 23.1 mmol, 4.4 g | COC(=O)C=1SC(=CC1Cl)C | C7H7ClO2S
reactant | NBS | 28.85 mmol, 5.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-3-chloro-thiophene-2-carboxylic acid methyl ester | 3.8 g, 61% | COC(=O)C=1SC(=CC1Cl)CBr | C7H6BrClO2S
